US04456733
Blend C Copolymer--Into a polymerization reactor equipped with an agitator and a reflux condenser were charged 770 ml of styrene, 4 grams of terpinolene, 200 ml of ethylbenzene and 200 ml of methyl ethyl ketone. Then 100 grams of medium cis-polybutadiene from Firestone Tire & Rubber Company (Diene 35) was dissolved in the mixture. After the rubber had dissolved, 50 ml of acrylic acid was added to the mixture. The temperature of the reaction mixture was raised to 80° C. and maintained between 80° and 120° C. during the course of the polymerization. Polymerization was initiated by introducing into the system a mixture of 0.3 ml of tert-butyl peracetate and 0.3 ml of tert-butyl per-neo-decanoate. About 1.5 hours later, continuous addition of 50 ml of acrylic acid was initiated and this addition was continued for about 5 hours. Additional 0.3 ml portions of tert-butyl peracetate were introduced into the polymerization mixture at 135 minutes and 270 minutes after the initiation of polymerization. To control the viscosity of the reaction mixture, 350 ml of methyl ethyl ketone was added from 315 minutes to 390 minutes after initiation of polymerization. Polymerization was terminated about 6.75 hours after initiation and a solution of two grams of 1,3,5-trimethyl-2,4,6-tris(3,5-di-tert-butyl-4-hydroxybenzyl)-benzene and 0.5 gram of tris(nonylphenyl)phosphite dissolved in 100 ml of methyl ethyl ketone was added. The resultant polymer was recovered and dried, first in air and then in a vacuum oven, to yield 660 grams of rubber-modified styrene-acrylic acid graft copolymer. The resultant polymer contained about 85.6% styrene and about 14.4% acrylic acid. Its rubber content was approximately 15.1% based on the weight of the resin phase.

reactant | styrene | 770 ml | C=CC1=CC=CC=C1 | C8H8
reactant | terpinolene | 4 grams | CC1=CCC(=C(C)C)CC1 | C10H16
reactant | ethylbenzene | 200 ml | C(C)C1=CC=CC=C1 | C8H10
reactant | acrylic acid | 50 ml | C(C=C)(=O)O | C3H4O2
reactant | tert-butyl peracetate | 0.3 ml | C(C)(=O)OOC(C)(C)C | C6H12O3
reactant | neo-decanoate | C(CCCCCC(C)(C)C)(=O)[O-]
reactant | acrylic acid | 50 ml | C(C=C)(=O)O | C3H4O2
solvent | methyl ethyl ketone | 350 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | styrene-acrylic acid | 660 grams | C(=CC1=CC=CC=C1)C=CC(=O)O | C11H10O2
